US08168658B2
Step A: Methyl 4-[3-[(4-chlorophenyl)amino]-2-(4-methylpiperazin-1-yl)-3-oxopropyl]benzoate.
Methyl 4-formylmethylbenzoate (52.3 mg, 0.294 mmol), 4-chlorophenyl isocyanide (40.4 mg, 0.294 mmol), N-methylpiperazine (39.1 μL, 0.352 mmol) and AcOH (16.6 μL, 0.294 mmol) were dissolved in 100 μL of trifluoroethanol and heated at 50° C. for 3 hours. The reaction mixture was diluted with 2 mL of methanol and purified by reverse phase HPLC to afford the desired product. MS cal'd 416.2 (MH+), exp 416.2 (MH+).

reactant | Methyl 4-formylmethylbenzoate | 0.294 mmol, 52.3 mg | C(=O)CC1=CC=C(C(=O)OC)C=C1 | C10H10O3
reactant | 4-chlorophenyl isocyanide | 0.294 mmol, 40.4 mg | ClC1=CC=C(C=C1)[N+]#[C-] | C7H4ClN
reactant | N-methylpiperazine | 0.352 mmol, 39.1 μL | CN1CCNCC1 | C5H12N2
reactant | AcOH | 0.294 mmol, 16.6 μL | CC(=O)O | C2H4O2
solvent | trifluoroethanol | 100 μL | C(C(F)(F)F)O | C2H3F3O
solvent | methanol | 2 mL | CO | CH4O
product | Methyl 4-[3-[(4-chlorophenyl)amino]-2-(4-methylpiperazin-1-yl)-3-oxopropyl]benzoate | ClC1=CC=C(C=C1)NC(C(CC1=CC=C(C(=O)OC)C=C1)N1CCN(CC1)C)=O | C22H26ClN3O3
